US06632919B1
N-((5-Methyl-1,8-naphthyridin-2(1H)-on-3-yl)acetyl)-N-(2-(tert-butyloxycarbonyl)aminoethyl)glycine
To a solution of methyl N-((5-methyl-1,8-naphthyridin-2(1H)-on-3-yl)acetyl)-N-(2-(tert-butyloxycarbonyl)aminoethyl)glycinate (0.72 g, 1.70 mmol) in THF (10 mL) was added LiOH (aqueous, 2M) (2.0 mL). The resulting solution was stirred at rt. for 45 min. then additional water was added, the THF was evaporated in vacuo and the pH of the aqueous solution was adjusted to 3.0. The resulting precipitate was washed with water (2×10 mL), collected by centrifugation and dried in vacuo to yield the desired product (366 mg, 53%) as a white powder (mp 133-36° C.). 1H NMR (DMSO-d6; this compound exist as two rotamers; chemical shifts for the minor rotamer is given in brackets): δ 12.12 (s br, 1H), 8.33 (d, J=4.9 Hz, 1H), 8.00 (s, 1H), 7.09 (d, J=4.9 Hz, 1H), 6.92 (6.70) (m, 1H), 3.99 (4.26) (s, 2H), 3.62 (s, 2H), 3.45 (m, 2H+H2O), 3.17 (m, 2H), 2.53 (2.52) (s, 3H), 1.36 (1.34) (s, 9H) 13C NMR (DMSO-d6): δ 171.07 (171.31), 170.23 (170.54), 162.36, 155.80, 149.53, 149.27, 145.30, 132.67 (133.55), 129.35 (129.20), 119.92, 113.44, 78.01, 48.13, 47.33, 38.60 (38.36), 34.07, 28.27, 17.76. FAB− HRMS (m/z): 417.1798, calc. C20H26N4O6−H 417.1774.

reactant | methyl N-((5-methyl-1,8-naphthyridin-2(1H)-on-3-yl)acetyl)-N-(2-(tert-butyloxycarbonyl)aminoethyl)glycinate | 1.70 mmol, 0.72 g | CC1=C2C=C(C(NC2=NC=C1)=O)CC(=O)N(CC(=O)OC)CCNC(=O)OC(C)(C)C | C21H28N4O6
reactant | LiOH | 2M, 2.0 mL | [Li+].[OH-]
reactant | water | O | H2O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | N-((5-Methyl-1,8-naphthyridin-2(1H)-on-3-yl)acetyl)-N-(2-(tert-butyloxycarbonyl)aminoethyl)glycine | 366 mg, 53% | CC1=C2C=C(C(NC2=NC=C1)=O)CC(=O)N(CC(=O)O)CCNC(=O)OC(C)(C)C | C20H26N4O6
